US04454145
2,2,10,10-Tetramethyl-1,11-undecanediol dinicotinate
A suspension of 53.10 grams (0.3 mole) of nicotinoyl chloride hydrochloride in 150 ml of anhydrous pyridine was added in 2 hours under stirring with a solution of 12.2 grams (0.05 mole) of 2,2,10,10-tetramethyl-1,11-undecanediol in 30 ml of anhydrous pyridine while keeping the temperature at about 70° C. The reaction was refluxed and stirred for 36 hours then, after cooling, the formed precipitate was removed by filtration. The filtrate was evaporated under vacuum and the obtained residue was treated with a mixture of 200 ml of diethyl ether and 100 ml of an 8% aqueous solution of sodium bicarbonate. The organic layer was separated and washed first with 100 of a 3% aqueous solution of sodium bicarbonate and then with 100 ml of water. After evaporating the diethyl ether in vacuo the obtained residue was dissolved in 50 ml of methylene chloride, the organic solution was twice washed with 30 ml of 1N hydrochloric acid and twice with 50 of water, dried over sodium sulphate and finally brought to dryness. The residue was crystallized from ethanol thus obtaining 11.80 grams of the title product, having m.p. 70°-71° C. Yield: 52% of theoretical.

reactant | nicotinoyl chloride hydrochloride | 0.3 mole, 53.10 grams | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | 2,2,10,10-tetramethyl-1,11-undecanediol | 0.05 mole, 12.2 grams | CC(CO)(CCCCCCCC(CO)(C)C)C | C15H32O2
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 2,2,10,10-Tetramethyl-1,11-undecanediol dinicotinate | 11.80 grams, Yield: 52% | C(C1=CN=CC=C1)(=O)OCC(CCCCCCCC(COC(C1=CN=CC=C1)=O)(C)C)(C)C | C27H38N2O4
